US09216173B2
To a solution of tert-butyl [1-hydroxy-4-(methylsulfanyl)butan-2-yl]carbamate (18.5 g, 84.5 mmol) in THF (400 mL) was added phthalimide (14.9 g, 0.101 mol) and triphenylphosphine (26.9 g, 0.101 mol) under a nitrogen atmosphere. Diethylazodicarboxylate (27.3 g, 0.135 mol) was added dropwise at room temperature. After 2 hours, the reaction mixture was concentrated under reduced pressure, and the residue was purified by chromatography on silica gel to give tert-butyl {1-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-4-(methylsulfanyl)butan-2-yl}carbamate. MS ESI calc'd. for C18H25N2O4S [M+H]+ 365. found 365. 1H NMR (400 MHz, CDCl3) δ 7.87-7.71 (m, 4H), 4.72 (s, 1H), 4.16-4.07 (m, 1H), 3.76 (d, J=6.6 Hz, 2H), 2.68-2.54 (m, 2H), 2.13 (s, 3H), 1.75-1.55 (m, 2H), 1.35 (s, 9H).

reactant | tert-butyl [1-hydroxy-4-(methylsulfanyl)butan-2-yl]carbamate | 84.5 mmol, 18.5 g | OCC(CCSC)NC(OC(C)(C)C)=O | C10H21NO3S
reactant | phthalimide | 0.101 mol, 14.9 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 0.101 mol, 26.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diethylazodicarboxylate | 0.135 mol, 27.3 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | tert-butyl {1-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-4-(methylsulfanyl)butan-2-yl}carbamate | O=C1N(C(C2=CC=CC=C12)=O)CC(CCSC)NC(OC(C)(C)C)=O | C18H24N2O4S
